US04970213
76.9 cm3 of phosphoryl chloride are added in the course of 30 minutes, with stirring, at between 10° and 15° C., to a mixture of 800 cm3 of trichloromethane and 74.35 cm3 of dimethylformamide and the mixture is stirred for 1 hour at a temperature close to 20° C. 65.8 g of 6,7-difluoro-3,4-dihydrocarbostyril are added in the course of 10 minutes, at about 20° C., with vigorous stirring, to the solution obtained. The suspension obtained is heated to a temperature close to 60° C. and kept at this temperature for 2 hours. The reaction mixture is concentrated under reduced pressure (20 kPa) at 50° C. until a pasty mixture is obtained. A mixture of 500 g of ice and 500 cm3 of water is added, with vigorous stirring. The solid obtained is drained at about 5° C. and washed with 3 times 300 cm3 of water at 5° C. The moist product obtained and 60 g of sodium acetate are added simultaneously, in the course of 1 hour, to 1.5 liters of water at 90° C., in such a way as to keep the pH at about 6. The mixture is stirred for a further 30 minutes at 90° C., the temperature is allowed to fall to about 50° C. and the product is drained at this temperature and washed with 3 times 300 cm3 of water at about 20° C. 70.18 g of 2-chloro-6,7-difluoro-3-formyl-1,4-dihydroquinoline are obtained in the form of a yellow solid melting at 260° C., which is used in this form for the subsequent steps.

reactant | phosphoryl chloride | 76.9 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trichloromethane | 800 cm3 | ClC(Cl)Cl | CHCl3
reactant | 6,7-difluoro-3,4-dihydrocarbostyril | 65.8 g | FC=1C=C2CCC(NC2=CC1F)=O | C9H7F2NO
reactant | sodium acetate | 60 g | C(C)(=O)[O-].[Na+]
solvent | water | 1.5 liters | O | H2O
solvent | water | 500 cm3 | O | H2O
solvent | dimethylformamide | 74.35 cm3 | CN(C=O)C | C3H7NO
product | 2-chloro-6,7-difluoro-3-formyl-1,4-dihydroquinoline | 70.18 g | ClC=1NC2=CC(=C(C=C2CC1C=O)F)F | C10H6ClF2NO
